US04979978
Preparation of Methyl 3-Methoxy-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate.
Methyl 3-methoxy-12H-dibenzo[d,g][1,3]-dioxocin-12-one-6-carboxylate (1.35 g, 4.3 mmol) was combined with 35 ml of ethanol, 15 ml of ethyl acetate, 6 ml of acetic acid, and 0.70 g of 5 percent palladium on carbon catalyst and the suspension was placed on a Parr hydrogenator under 50 psi of hydrogen for 18 hours. The catalyst was removed by filtration and the filtrate was diluted with 300 ml of ether and 100 ml of water and the layers separated. The organic layer was extracted with 3-100 ml portions of water and 2-100 ml portions of saturated aqueous sodium bicarbonate and was then dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure. The residue was purified by preparative liquid chromatography on silica gel eluting with a 15:85 mixture of ether and hexane to obtain 0.76 g (59 percent of theory) of the title compound as a white powder melting at 93°-95° C. The proton nmr spectrum was consistent with the assigned structure.

reactant | Methyl 3-methoxy-12H-dibenzo[d,g][1,3]-dioxocin-12-one-6-carboxylate | 4.3 mmol, 1.35 g | COC=1C=CC2=C(OC(OC3=C(C2=O)C=CC=C3)C(=O)OC)C1 | C17H14O6
reactant | ethanol | 35 ml | C(C)O | C2H6O
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.70 g | [Pd] | Pd
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | Methyl 3-Methoxy-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate | COC=1C=CC2=C(OC(OC3=C(C2)C=CC=C3)C(=O)OC)C1 | C17H16O5
